US07517873B2
A mixture of 0.059 g (0.0002 mole) of (rac)-2-chloro-9-cyclopentyl-5,8-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-3), 0.033 g (0.0002 mole) of 4-amino-3-methoxy-benzoic acid, 0.5 mL of ethanol, 2 mL of water, and 2 drops of hydrochloric acid was heated to 100 degrees overnight. Upon cooling, a precipitate formed which was collected by filtration to give 0.062 g of (rac)-4-(9-cyclopentyl-5,8-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl amino)-3-methoxy-benzoic acid (I-3) as an off-white solid.

reactant | (rac)-2-chloro-9-cyclopentyl-5,8-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.0002 mole, 0.059 g | ClC=1N=CC2=C(N(C(CC(N2C)=O)C)C2CCCC2)N1 | C14H19ClN4O
reactant | 4-amino-3-methoxy-benzoic acid | 0.0002 mole, 0.033 g | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
reactant | ethanol | 0.5 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | water | 2 mL | O | H2O
product | (rac)-4-(9-cyclopentyl-5,8-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl amino)-3-methoxy-benzoic acid | 0.062 g | C1(CCCC1)N1C2=C(N(C(CC1C)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H27N5O4
